US05849732
Isobutyric acid (13.9 ml) was added dropwise to a mixture of 21.1 ml of 62.5% sodium hydride, 93.8 ml of diisopropylamine and 150 ml of tetrahydrofuran (THF) at 30° C. or lower. After refluxing the mixture for 30 minutes, to the mixture was added 31.0 ml of a 1.6M n-butyl lithium-hexane solution at 10° C. or lower and the mixture was stirred for 15 minutes at the same temperature and for 2 hours at room temperature. At 10° C. or lower, 5.76 g of 1-bromodecane was added dropwise to the mixture. The mixture was stirred at the same temperature for one hour and then at room temperature overnight. After adding 300 ml of ice water, the reaction mixture was washed with diethyl ether, and the aqueous layer was adjusted to pH=1 with conc. hydrochloric acid and extracted with isopropyl ether. After the extract was washed and dried, the solvent was removed under reduced pressure to give 2.36 g of 2,2-dimethyllauric acid (state: pale yellow oily product).

reactant | Isobutyric acid | 13.9 ml | C(C(C)C)(=O)O | C4H8O2
reactant | sodium hydride | 21.1 ml | [H-].[Na+]
reactant | diisopropylamine | 93.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-bromodecane | 5.76 g | BrCCCCCCCCCC | C10H21Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyllauric acid | 2.36 g | CC(C(=O)O)(CCCCCCCCCC)C | C14H28O2
